US08865712B2
f) 5-(6-Bromo-pyridin-2-yl)-5-methyl-morpholin-3-one
To a solution of N-[1-(6-bromo-pyridin-2-yl)-2-hydroxy-1-methyl-ethyl]-2-chloro-acetamide in tert-butanol (90 ml) was added KOtBu and the reaction mixture was stirred at rt for 4 h. The reaction mixture was quenched with H2O and diluted with EtOAc. The phases were separated and the aq. phase was twice extracted with EtOAc. The combined org. phases were washed with brine, dried over Na2SO4, filtered and the solvent was removed to leave the title compound as a pale yellow solid. HPLC RtH4=0.73 min; ESIMS: 271, 273 [(M+H)+]; 1H NMR (400 MHz, DMSO-d6): δ 8.72 (s, 1H), 7.82-7.78 (m, 1H), 7.57-7.51 (m, 2H), 4.10 (d, 2H), 4.00 (d, 1H), 3.65 (d, 1H), 1.42 (s, 3H).

reactant | N-[1-(6-bromo-pyridin-2-yl)-2-hydroxy-1-methyl-ethyl]-2-chloro-acetamide | BrC1=CC=CC(=N1)C(CO)(C)NC(CCl)=O | C10H12BrClN2O2
reactant | KOtBu | CC(C)(C)[O-].[K+]
solvent | tert-butanol | 90 ml | C(C)(C)(C)O | C4H10O
product | 5-(6-Bromo-pyridin-2-yl)-5-methyl-morpholin-3-one | BrC1=CC=CC(=N1)C1(COCC(N1)=O)C | C10H11BrN2O2
